US03997553
The salt of methyl cyanocarbamate with o-phenylenediamine (1.0 parts) is heated at 145°-50° C. for 10 minutes. This treatment gives 0.86 parts (94% yield) of 2-benzimidazolecarbamic acid, methyl ester.

reactant | methyl cyanocarbamate | C(#N)NC(OC)=O | C3H4N2O2
reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
product | 2-benzimidazolecarbamic acid, methyl ester | 94% yield | N1=C(NC2=C1C=CC=C2)NC(=O)OC | C9H9N3O2
